US05786496
Acetylbenzilic Acid (L1)
Acetyl chloride (35 mL, 490 mmol) was added dropwise to a solution of benzilic acid (100 g, 438 mmol) in 300 mL THF over a period of five minutes. The solution was cooled to 0° C. and pyridine (70 mL, 865 mmol) was added dropwise over a period of 30 minutes, during which time a thick white precipitate developed. The ice bath was removed, the reaction flask was equipped with a CaCl2 drying tube and stirred overnight. The next day, the solution was filtered to isolate a white precipitate and the yellow THF supernatant was concentrated to a turbid oil. Most of the product was isolated in the precipitate as the pyridinium acetylbenzilate salt, but some was retained in the supernatant. The precipitate and oil were added to a large separatory funnel charged with 1000 mL diethyl ether and 400 mL of 1.2M HCl. The contents were thoroughly mixed, the aqueous portion separated and discarded. The ether solution was washed twice with 400 mL 1.2M HCl, once with 300 mL saturated NaCl solution, dried over MgSO4, filtered and concentrated to approximately 200 mL. The product was precipitated by addition of 800 mL hexanes, isolated by filtration, and air dried overnight. Yield 88 g (74%). 1H NMR (CDCl3): δ7.1-7.7 (m, 10H ArH), 5.7 (s, 3H, COOH), 2.08 (s, 3H, RO(O)CCH3). This synthesis could be easily modified by one of skill in the art to incorporate a thiol or amino analog of benzylic acid.

reactant | HCl | 1.2M, 400 mL | Cl | ClH
reactant | benzylic acid | C=1C=CC(=CC1)C(C=2C=CC=CC2)(C(=O)O)O | C14H12O3
reactant | diethyl ether | 1000 mL | C(C)OCC | C4H10O
product | Acetylbenzilic Acid | C(C)(=O)C1=C(C(C(=O)O)(O)C2=CC=CC=C2)C=CC=C1 | C16H14O4
